2159-09-19 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Post cath check at 2:30PM had some oozing at femoral cath site, no
   bruit, no hematoma; RUE site bandage c/d/i.
   -SBP overnight in the 60s when patient asleep->patient asysmptomatic
   and no intervention made.
   -This morning the patient denies any headaches, dizziness,
   lightheadedness, chest pain, shortness of breath.  He feels great and
   is motivated to go home.
   Allergies:
   Enalapril
   Cough; angioede
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2159-9-18**] 06:00 PM
   Enoxaparin (Lovenox) - [**2159-9-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 43 (42 - 55) bpm
   BP: 105/43(58) {80/28(41) - 108/47(59)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 94 kg (admission): 94 kg
   Height: 67 Inch
                  Total In:
                                                                  2,350 mL
                                                                    150 mL
   PO:
                                                                    450 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,900 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    450 mL
   Urine:
                                                                    600 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   GENERAL: pleasant male in NAD. Alert and oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles at the bases.  No wheezes
   or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  RUE bandage is c/d/i.  RLE
   has some oozing at the cath site, no hematoma.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Warm and well
   perfused with normal capillary refill time.  1+ Left and trace right
   lower leg edema.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP, PT [**Name (NI) 2040**]
   [**Name (NI) 2412**]: Carotid 2+ Femoral 2+ Popliteal 1+ DP, PT [**Name (NI) 2040**]
   [**Name (NI) 610**] / Radiology
        [image002.jpg]
   Assessment and Plan
   74M vasculopath with PMH of CABG in [**2154**], CVA with no residual effect,
   and bilateral carotid artery disease s/p left CEA [**7-3**] presenting for
   right carotid stenting.
   .
   # s/p RCA Stenting: Pt enrolled in [**Last Name (un) 7861**] study which is a
   "multicenter, US surveillance registry designed to enroll a minimum of
   1,000 patients at up to 150 sites. The objective of the study is to
   compile early clinical outcomes data for the Wallstent and FilterWire
   EZ in routine clinical practice."
   - Patient had a vagal reaction during the procedure which required
   atropine.  His SBP then went up to the 200s requiring a nitro drip.
   Otherwise he tolerated the procedure well and was transferred to the
   CCU with an SBP of 100 off the nitro drip.
   - Maintain SBP <120 and >90. If SBP>120 start nitro, if SBP<90 start
   dopamine.
   - Cont to follow Neuro Exam q1h for 2 hours, q2h for 2 checks, and then
   q6h
   - Check with study protocols regarding pt management protocols
   - start ASA 325mg and Plavix 75mg and resume Coumadin 5mg tonight (INR
   down to 1.2 this AM).  Continue with Lovenox treatment dose twice daily
   until INR therapeutic.  Start home dose Coumadin prior to discharge.
   - Post-cath check at 2:30PM showed some R femoral oozing, but no
   hematoma or bruit.  RUE cath site bandage is c/d/i.
   .
   # CORONARIES: Pt s/p CABG. Stress-MIBI without concerning ECG changes
   - Cont ASA, Plavix, Statin, Beta-Blocker, [**Last Name (un) 284**]
   .
   # PUMP: Last EF 60%. SBP currently well controlled.
   - Cont [**Last Name (un) 284**],  will switch home atenolol 150mg daily to metoprolol 75mg
   [**Hospital1 **] for rate control given the patient
s recent increased creatinine
   .
   # RHYTHM: Pt with hx of PAF, currently in bradycardic sinus rhythm
   -
   - Pt on Coumadin as outpatient and will restart this PM
   .
   #  DMII: Not on insulin as outpatient. HbA1C 7.3 ([**4-2**])
   - Will give home dose glipizide and cover the sugars with Humalog SS
   while in house.  Will hold home metformin.
   .
   #  Anemia: Unclear etiology. Longstanding history from prior records.
   Previous ferritin was normal.  No microcytosis. Mild elevated
   creatinine. Hemoglobin Electropheresis WNL (+FM hx for anemia)
   - Cont to monitor
   - Maintain Hct >30 given CAD hx
   .
   FEN: KVO/Replete PRN/Cardiac Diabetic Diet
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with Coumadin
   -Bowel regimen with  Colace/Senna/milk of magnesia
   .
   Full Code
   COMM: Daughter [**First Name4 (NamePattern1) 927**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 7860**]
   .
   DISPO: CCU for observation
   ICU Care
   Nutrition: Cardiac/diabetic diet
   Glycemic Control: glipizide, Humalog ISS
   Lines:
   20 Gauge - [**2159-9-18**] 12:30 PM
   Prophylaxis:
   DVT: Coumadin, Lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2159-9-19**] 11:14 AM ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.  I also reviewed admit note from
   [**2159-9-18**]
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2159-9-19**] 11:18 AM ------

2159-09-20 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HR continues to be in the 30s-50s overnight.  Patient is asymptomatic
   and anxious to go home.
   Walked this AM- got HR up to 60s.  Patient stable.
   Allergies:
   Enalapril
   Cough; angioede
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2159-9-19**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-9-20**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 44 (42 - 49) bpm
   BP: 103/46(59) {90/32(50) - 133/63(74)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 95.9 kg (admission): 94 kg
   Height: 67 Inch
                  Total In:
                                                                    840 mL
                  PO:
                                                                    830 mL
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    800 mL
   Urine:
                                                                  1,425 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: pleasant male in NAD. Alert and oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles at the bases.  No wheezes
   or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  RUE bandage is c/d/i.  RLE
   cath site no hematoma or bruit.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Warm and well
   perfused with normal capillary refill time.  1+ Left and trace right
   lower leg edema.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP, PT [**Name (NI) 2040**]
   [**Name (NI) 2412**]: Carotid 2+ Femoral 2+ Popliteal 1+ DP, PT [**Name (NI) 2040**]
   [**Name (NI) 610**] / Radiology
   184 K/uL
   7.8 g/dL
   93 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   33 mg/dL
   104 mEq/L
   135 mEq/L
   23.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2159-9-19**]  06:40 AM
                             [**2159-9-19**]  02:05 PM
                             [**2159-9-20**]  03:39 AM
   WBC
   8.1
   8.0
   6.8
   Hct
   25.5
   24.5
   23.3
   Plt
   220
   185
   184
   Cr
   2.0
   2.1
   1.8
   Glucose
   58
   215
   93
   Other [**Year (4 digits) **]: PT / PTT / INR:14.0/29.1/1.2, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74M vasculopath with PMH of CABG in [**2154**], CVA with no residual effect,
   and bilateral carotid artery disease s/p left CEA [**7-3**] presenting for
   right carotid stenting.
   .
   # s/p RCA Stenting: Pt enrolled in [**Last Name (un) 7861**] study which is a
   "multicenter, US surveillance registry designed to enroll a minimum of
   1,000 patients at up to 150 sites. The objective of the study is to
   compile early clinical outcomes data for the Wallstent and FilterWire
   EZ in routine clinical practice."
   - Patient had a vagal reaction during the procedure which required
   atropine.  His SBP then went up to the 200s requiring a nitro drip.
   Otherwise he tolerated the procedure well and was transferred to the
   CCU with an SBP of 100 off the nitro drip.
   - Maintain SBP <120 and >90. If SBP>120 start nitro, if SBP<90 and
   patient symptomatic start dopamine.
   - Cont to follow Neuro Exam q6h
   - Continue ASA 325mg and Plavix 75mg and resume Coumadin 5mg tonight
   (INR down to 1.2 this AM).  Continue with Lovenox bridge to Coumadin
   until INR therapeutic.  Start home dose Coumadin prior to discharge.
   .
   # CORONARIES: Pt s/p CABG. Stress-MIBI without concerning ECG changes
   - Cont ASA, Plavix, Statin, [**Last Name (un) 284**]
   - D/C Beta blocker for now and monitor HR with [**Doctor Last Name **] of Hearts monitor
   at home.
   .
   # PUMP: Last EF 60%. SBP currently well controlled.
   -          Cont [**Last Name (un) 284**],  D/C home atenolol
   -          If needs beta blocker in the future atenolol 150mg should be
   switched to metoprolol 75mg given the patient
s recent increased
   creatinine
   .
   # RHYTHM: Pt with hx of PAF, currently in bradycardic sinus rhythm
   -          Pt bridging to Coumadin with Lovenox
   -          Will send home on KOH for 2 weeks (HR 40-110).
   .
   #  DMII: Not on insulin as outpatient. HbA1C 7.3 ([**4-2**])
   - Will give home dose glipizide and cover the sugars with Humalog SS
   while in house.  Will hold home metformin.
   .
   #  Anemia: Unclear etiology. Longstanding history from prior records.
   Previous ferritin was normal.  No microcytosis. Mild elevated
   creatinine. Hemoglobin Electropheresis WNL (+FM hx for anemia)
   - Cont to monitor
   - Maintain Hct >30 given CAD hx
   .
   FEN: KVO/Replete PRN/Cardiac Diabetic Diet
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with Coumadin
   -Bowel regimen with  Colace/Senna/milk of magnesia
   .
   Full Code
   COMM: Daughter [**First Name4 (NamePattern1) 927**] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 7860**]
   .
   DISPO: Discharge today.  PCP f/u in two weeks
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-9-18**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2159-9-20**] 10:16 ------